US08314250B2
To a stirred solution of 2-(3-cyano-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ((1S,2S,3S,5R)-2,6,6-trimethyl-bicyclo[3.1.1]hept-3-yl)-amide (0.200 g, 0.48 mmol) in a mixture of pyridine-acetic acid-water (2:1:1; 7.2 mL) was added sodium hypophosphate hydrate (0.400 g, 3.77 mmol) at room temperature. The reaction mixture was cooled to 0° C. and Raney Nickel (0.200 g) was added under an argon atmosphere. After stirring at 0° C. for 10 min, the temperature was raised to 40-45° C. and the reaction mixture was stirred for an additional 2.5 h at the same temperature (with monitoring by silica TLC). The reaction mixture was cooled, filtered through a pad of celite and the residue was washed with methanol (5 mL). The combined filtrates were concentrated to provide the crude material, which was purified by silica gel column chromatography (100-200 mesh) using a gradient of 50-60% ethyl acetate/hexanes to give 2-(3-formyl-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid((1S,2S,3S,5R)-2,6,6-trimethyl-bicyclo[3.1.1]hept-3-yl)-amide (0.100 g, 49%).

reactant | 2-(3-cyano-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ((1S,2S,3S,5R)-2,6,6-trimethyl-bicyclo[3.1.1]hept-3-yl)-amide | 0.48 mmol, 0.200 g | C[C@H]1[C@H]2C([C@@H](C[C@@H]1NC(=O)C1N(S(CC1)(=O)=O)CC1=CC(=CC=C1)C#N)C2)(C)C | C22H29N3O3S
reactant | sodium hypophosphate hydrate | 3.77 mmol, 0.400 g | O.P(=O)([O-])([O-])P(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
solvent | pyridine-acetic acid water | 7.2 mL | N1=C(C=CC=C1)CC(=O)O.O
catalyst | Raney Nickel | 0.200 g | [Ni] | Ni
product | 2-(3-formyl-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid((1S,2S,3S,5R)-2,6,6-trimethyl-bicyclo[3.1.1]hept-3-yl)-amide | 0.100 g, 49% | C[C@H]1[C@H]2C([C@@H](C[C@@H]1NC(=O)C1N(S(CC1)(=O)=O)CC1=CC(=CC=C1)C=O)C2)(C)C | C22H30N2O4S
